US04002680
17.4 g (0.1 mol) of adipic acid dihydrazide and 27.2 g (0.2 mol) of phenylacetic acid are suspended in 230 ml of chlorobenzene, 2.0 g (0.025 mol) of pyridine are added and the mixture is heated to the boil. Thereafter 26.2 g (0.22 mol) of thionyl chloride are added dropwise, whereupon the vigorous reaction commences. The suspension turns slightly brown. After boiling for 1 hour it is cooled and filtered and the product is washed with methanol. N,N'-Diphenylacetyl-adipic acid dihydrazide of melting point 310°-312° C is thus obtained in 63% yield.

reactant | adipic acid dihydrazide | 0.1 mol, 17.4 g | C(CCCCC(=O)NN)(=O)NN | C6H14N4O2
reactant | phenylacetic acid | 0.2 mol, 27.2 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | pyridine | 0.025 mol, 2.0 g | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 0.22 mol, 26.2 g | S(=O)(Cl)Cl | Cl2OS
reactant | chlorobenzene | 230 ml | ClC1=CC=CC=C1 | C6H5Cl
product | N,N'-Diphenylacetyl-adipic acid dihydrazide | 63% yield | C1(=CC=CC=C1)N(NC1=CC=CC=C1)C(C(CCCC(=O)NN)C(C)=O)=O | C20H24N4O3
